US03987047
3-Acetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline hydrochloride was prepared from 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline and acetyl chloride analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 3-Acetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline hydrochloride | Yield: 60% | Cl.C(C)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | InChI=1S/C16H18N2O.ClH/c1-11-13-5-3-4-6-15(13)17-16-8-10-18(12(2)19)9-7-14(11)16;/h3-6H,7-10H2,1-2H3;1H
